US04550107
(e) Ethyl 3-[(2-aminophenyl)amino]-4-chloro-1-methyl-1H-pyrrole-2-carboxylate
A solution of ethyl 4-chloro-1-methyl-3-[(2-nitrophenyl) amino]-1H-pyrrole-2-carboxylate (35.6 g, 0.11 mol) in tetrahydrofuran (700 ml) is hydrogenated for 10 hours under a hydrogen pressure of 10 bar and at a temperature of 40° C. after the addition of Raney nickel (10 g). After a further Raney nickel (10 g) had been added, hydrogenation is continued for a further 13 hours under the same conditions, after which no further starting material is detected in the mixture by thin layer chromatography. The catalyst is filtered off, the filtrate is concentrated in vacuo and the syrupy residue is recrystallized once from tert.butyl methyl ether and once from methanol. The colorless crystals (27.5 g) melted at 104° to 105° C.

reactant | ethyl 4-chloro-1-methyl-3-[(2-nitrophenyl) amino]-1H-pyrrole-2-carboxylate | 0.11 mol, 35.6 g | ClC=1C(=C(N(C1)C)C(=O)OCC)NC1=C(C=CC=C1)[N+](=O)[O-] | C14H14ClN3O4
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 10 g | [Ni] | Ni
catalyst | Raney nickel | 10 g | [Ni] | Ni
product | Ethyl 3-[(2-aminophenyl)amino]-4-chloro-1-methyl-1H-pyrrole-2-carboxylate | NC1=C(C=CC=C1)NC1=C(N(C=C1Cl)C)C(=O)OCC | C14H16ClN3O2
